US07179934B2
(4R,5S)-3-((R)-6-Cyclohexyl-4-methyl-hexanoyl)-4-methyl-5-phenyl-oxazolidin-2-one
A flask was charged with 4.17 g (19.6 mmol) of (R)-6-cyclohexyl-4-methyl-hexanoic acid, 40 mL of THF, and 8.56 mL (61.4 mmol) of triethylamine. The mixture was cooled in a 0° C. bath, and 2.41 mL (19.6 mmol) of pivaloyl chloride was added. The mixture was stirred for 1 h at 0° C. Then 2.79 g (16.4 mmol) of (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone and 0.823 g (19.6 mmol) of lithium chloride were added as solids. The mixture was allowed to warm to room temperature and stirred overnight. The resulting solids were filtered off. The solvent was stripped under reduce pressure, and the residue was purified by column chromatography (eluent: 4:1 hexanes/ethyl acetate) to give 6.09 g (quant.) of a clear oil: 1H NMR (400 MHz, CDCl3) δ ppm 0.89 (m, 8 H) 1.16 (m, 6 H) 1.68 (m, 9 H) 2.87 (m, 1 H) 2.99 (m, 1 H) 4.76 (qd, J=6.83, 6.59 Hz, 1 H) 5.66 (d, J=7.32 Hz, 1 H) 7.30 (m, 2 H) 7.40 (m, 3 H). MS (APCl) m+1/z=372.

reactant | (R)-6-cyclohexyl-4-methyl-hexanoic acid | 19.6 mmol, 4.17 g | C1(CCCCC1)CC[C@H](CCC(=O)O)C | C13H24O2
reactant | triethylamine | 61.4 mmol, 8.56 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 19.6 mmol, 2.41 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone | 16.4 mmol, 2.79 g | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | lithium chloride | 19.6 mmol, 0.823 g | [Cl-].[Li+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4R,5S)-3-((R)-6-Cyclohexyl-4-methyl-hexanoyl)-4-methyl-5-phenyl-oxazolidin-2-one | C1(CCCCC1)CC[C@H](CCC(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C | C23H33NO3
